US06087380
e) 3-Methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridine-6-carboxylic acid
A solution of 3.2 g (10 mMol) of methyl 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4.5-b]pyridine-6-carboxylate in 150 ml methanol was mixed with a solution of 1.5 g lithium hydroxide in 20 ml water and stirred for 24 hours at room temperature. Then the mixture was diluted with 50 ml of water, the alcohol was distilled off and the aqueous phase was washed with ethyl acetate. After acidification with dilute hydrochloric acid the mixture was extracted several times with dichloromethane/methanol (9:1), the organic phase was dried with sodium sulphate and the solvent was distilled off. Yield: 2.1 g beige solid (70% of theory), Rf value: 0.38 (silica gel; ethyl acetate/ethanol/ammonia =50:45:5)

reactant | methyl 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4.5-b]pyridine-6-carboxylate | 10 mMol, 3.2 g | CN1C(=NC=2C1=NC=C(C2)C(=O)OC)CCC2=CC=C(C=C2)C#N | C18H16N4O2
reactant | lithium hydroxide | 1.5 g | [OH-].[Li+]
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-Methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridine-6-carboxylic acid | CN1C(=NC=2C1=NC=C(C2)C(=O)O)CCC2=CC=C(C=C2)C#N | C17H14N4O2
